US08350028B2
(2-Methoxy-benzyl)-(6-nitro-quinolin-2-yl)-amine (0.5 g, 2.0 mmol) were dissolved in ethyl acetate (25 ml). Upon addition of Pd/C (10%, 0.1 g) the reaction mixture was stirred for 45 min at ambient temperature under an atmosphere of hydrogen. Then the catalyst was filtered off, the filter washed with ethyl acetate and the filtrate evaporated. N2-(2-Methoxy-benzyl)-quinoline-2,6-diamine was obtained as a yellow foam (0.40 g, 87%); MS: m/e=280.5 (M+H+).

reactant | (2-Methoxy-benzyl)-(6-nitro-quinolin-2-yl)-amine | 2.0 mmol, 0.5 g | COC1=C(CNC2=NC3=CC=C(C=C3C=C2)[N+](=O)[O-])C=CC=C1 | C17H15N3O3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | N2-(2-Methoxy-benzyl)-quinoline-2,6-diamine | COC1=C(CNC2=NC3=CC=C(C=C3C=C2)N)C=CC=C1 | C17H17N3O
